US04535166
2-(4'-methoxyphenyl)-propionic acid
A mixture of 2-bromo-1,1-dimethoxy-1-(4'-methoxyphenyl)-propane (2.89 g; 0.01 mol), potassium acetate (1.2 g; 0.012 mol) and n-butanol (40 ml) is heated to 115° C. for 32 hours. By following the procedure of Example 1a, there is obtained the title product (1.60 g; 0.0089 mol). Yield, 89%; m.p. 56°-57° C.

reactant | 2-bromo-1,1-dimethoxy-1-(4'-methoxyphenyl)-propane | 0.01 mol, 2.89 g | BrC(C(C1=CC=C(C=C1)OC)(OC)OC)C | C12H17BrO3
reactant | potassium acetate | 0.012 mol, 1.2 g | C(C)(=O)[O-].[K+]
solvent | n-butanol | 40 ml | C(CCC)O | C4H10O
product | 2-(4'-methoxyphenyl)-propionic acid | 0.0089 mol, 1.60 g | COC1=CC=C(C=C1)C(C(=O)O)C | C10H12O3
